US08049016B2
Preparation of ethyl 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate
Following the procedure as described in Preparation 13, making variations as required to replace bromomethyl-2,2-difluorocyclopropane with cyclopropylmethyl bromide to react with ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained in 96% yield: 1H NMR (300 MHz, CDCl3) δ 4.23 (q, J=7.2 Hz, 2H), 4.07 (t, J=7.8 Hz, 2H), 3.67 (t, J=7.8 Hz, 2H), 3.16 (d, J=6.9 Hz, 2H), 2.58 (s, 3H), 1.28 (t, J=7.2 Hz, 3H), 0.97-0.88 (m, 1H), 0.59-0.42 (m, 2H), 0.25-0.12 (m, 2H); MS (ES+) m/z 310.3 (M+1).

reactant | bromomethyl-2,2-difluorocyclopropane | BrCC1C(C1)(F)F | C4H5BrF2
reactant | cyclopropylmethyl bromide | C1(CC1)CBr | C4H7Br
reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
product | ethyl 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | 96% yield | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O | C14H19N3O3S
